Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],1.38980290257
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[H:9],5.02480868308
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9].[O:1],3.39108117977
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]1([H:13])[H:14].[H:8],1.8272745177400005
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.828218497309999
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.14347019663
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.75137426453
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7][H:8],6.05441055668
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],6.169277228
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])[H:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.46124516009
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.6448889140600005
[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.66333038109
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],4.02866160589
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[C:7]([H:8])#[C:9][H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6],-0.328573697071
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],0.0293419589197999
[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.5252647047800005
[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[C:3][H:4])[C:12]([H:13])([H:14])[H:15],4.7525743290300015
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1]=[C:2],3.28834822209
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],3.5141722184699993
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],3.4596290174
[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-4.72007891077
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9],1.99740794578
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],3.72237501543
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[O:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-4.559652680909999
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@@:7]([O:6])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.126551275931
[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[O:7][C:8][H:9]>>[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8][H:9],-2.63506719287
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.4887957384399999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],4.47666674481
